US05665718
2 ml (11.5 mmol) of N-ethyldiisopropylamine and 0.97 ml (8 mmol) of allyl bromide were added to a solution of 0.500 g (1.52 mmol) of (S)-1-(5-aminomethyl-1,3,4-oxadiazol-2-yl)-11,11a-dihydro-8H,10H-azeto[1,2-a]imidazo[5,1-c]thieno[3,2-e][1,4]diazepin-8-one in 30 ml of methylene chloride, whereupon the mixture was stirred at 70° for 12 hours. The reaction solution was diluted with methylene chloride and washed with 2N sodium carbonate solution. The aqueous phase was washed twice with methylene chloride and the organic phases were dried with sodium sulfate, filtered and evaporated. Chromatography (silica gel, ethyl acetate/methanol 10:1) yielded 0.476 g (77%) of (S)-1-[5-diallylaminomethyl-1,3,4-oxadiazol-2-yl]-11,11a-dihydro-8H, 10H-azeto[1,2-a]imidazo[5,1-c]thieno[3,2-e][1,4]diazepin-8-one as a colourless foam, Rf=0.36 (silica gel, ethyl acetate/methanol 20:1).

reactant | N-ethyldiisopropylamine | 11.5 mmol, 2 ml | C(C)N(C(C)C)C(C)C | C8H19N
reactant | allyl bromide | 8 mmol, 0.97 ml | C(C=C)Br | C3H5Br
reactant | (S)-1-(5-aminomethyl-1,3,4-oxadiazol-2-yl)-11,11a-dihydro-8H,10H-azeto[1,2-a]imidazo[5,1-c]thieno[3,2-e][1,4]diazepin-8-one | 1.52 mmol, 0.500 g | NCC1=NN=C(O1)C=1N=CN2C1[C@H]1N(C(C3=C2C=CS3)=O)CC1 | C14H12N6O2S
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
product | (S)-1-[5-diallylaminomethyl-1,3,4-oxadiazol-2-yl]-11,11a-dihydro-8H, 10H-azeto[1,2-a]imidazo[5,1-c]thieno[3,2-e][1,4]diazepin-8-one | 0.476 g, 77% | C(C=C)N(CC=C)CC1=NN=C(O1)C=1N=CN2C1[C@H]1N(C(C3=C2C=CS3)=O)CC1 | C20H20N6O2S
